* c:\temp_esim\cordic\cordic.cir

* u5  gnd net-_u1-pad1_ gnd gnd net-_u1-pad1_ net-_u1-pad1_ gnd net-_u1-pad1_ net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ net-_u2-pad7_ net-_u2-pad8_ adc_bridge_8
* u1  net-_u1-pad1_ gnd gnd gnd gnd gnd gnd gnd net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ adc_bridge_8
* u3  gnd gnd gnd gnd net-_u3-pad5_ gnd gnd gnd net-_u2-pad17_ net-_u2-pad18_ net-_u2-pad19_ net-_u2-pad20_ net-_u2-pad21_ net-_u2-pad22_ net-_u2-pad23_ net-_u2-pad24_ adc_bridge_8
* u9  net-_u2-pad29_ net-_u2-pad30_ net-_u2-pad31_ net-_u2-pad32_ net-_u2-pad33_ net-_u2-pad34_ net-_u2-pad35_ net-_u2-pad36_ sine8 sine7 sine6 sine5 sine4 sine3 sine2 sin1 dac_bridge_8
* u10  net-_u10-pad1_ net-_u10-pad2_ net-_u10-pad3_ net-_u10-pad4_ net-_u10-pad5_ net-_u10-pad6_ net-_u10-pad7_ net-_u10-pad8_ sin0 cosine8 cosine7 cosine6 cosine5 cosine4 cosine3 cosine2 dac_bridge_8
* u8  net-_u2-pad45_ net-_u2-pad46_ cosine1 cosine0 dac_bridge_2
v1  net-_u4-pad4_ gnd pulse(0.5m 5 0 1n 1n 50n 100n)
* u6  cosine0 plot_v1
* u11  cosine1 plot_v1
* u13  sine6 plot_v1
* u20  sine5 plot_v1
* u14  sine4 plot_v1
* u21  sine3 plot_v1
* u15  sine2 plot_v1
* u22  sin1 plot_v1
* u16  cosine8 plot_v1
* u23  sin0 plot_v1
* u17  cosine7 plot_v1
* u24  cosine6 plot_v1
* u18  cosine5 plot_v1
* u25  cosine4 plot_v1
* u19  cosine3 plot_v1
* u26  cosine2 plot_v1
* u7  sine8 plot_v1
* u12  sine7 plot_v1
* u4  gnd gnd gnd net-_u4-pad4_ net-_u2-pad25_ net-_u2-pad26_ net-_u2-pad27_ net-_u2-pad28_ adc_bridge_4
v2 net-_u1-pad1_ gnd  dc 5
v3 net-_u3-pad5_ gnd  dc 5
* u2  net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ net-_u2-pad7_ net-_u2-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ net-_u2-pad17_ net-_u2-pad18_ net-_u2-pad19_ net-_u2-pad20_ net-_u2-pad21_ net-_u2-pad22_ net-_u2-pad23_ net-_u2-pad24_ net-_u2-pad25_ net-_u2-pad26_ net-_u2-pad27_ net-_u2-pad28_ net-_u2-pad29_ net-_u2-pad30_ net-_u2-pad31_ net-_u2-pad32_ net-_u2-pad33_ net-_u2-pad34_ net-_u2-pad35_ net-_u2-pad36_ net-_u10-pad1_ net-_u10-pad2_ net-_u10-pad3_ net-_u10-pad4_ net-_u10-pad5_ net-_u10-pad6_ net-_u10-pad7_ net-_u10-pad8_ net-_u2-pad45_ net-_u2-pad46_ cordic
a1 [gnd net-_u1-pad1_ gnd gnd net-_u1-pad1_ net-_u1-pad1_ gnd net-_u1-pad1_ ] [net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ net-_u2-pad7_ net-_u2-pad8_ ] u5
a2 [net-_u1-pad1_ gnd gnd gnd gnd gnd gnd gnd ] [net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ ] u1
a3 [gnd gnd gnd gnd net-_u3-pad5_ gnd gnd gnd ] [net-_u2-pad17_ net-_u2-pad18_ net-_u2-pad19_ net-_u2-pad20_ net-_u2-pad21_ net-_u2-pad22_ net-_u2-pad23_ net-_u2-pad24_ ] u3
a4 [net-_u2-pad29_ net-_u2-pad30_ net-_u2-pad31_ net-_u2-pad32_ net-_u2-pad33_ net-_u2-pad34_ net-_u2-pad35_ net-_u2-pad36_ ] [sine8 sine7 sine6 sine5 sine4 sine3 sine2 sin1 ] u9
a5 [net-_u10-pad1_ net-_u10-pad2_ net-_u10-pad3_ net-_u10-pad4_ net-_u10-pad5_ net-_u10-pad6_ net-_u10-pad7_ net-_u10-pad8_ ] [sin0 cosine8 cosine7 cosine6 cosine5 cosine4 cosine3 cosine2 ] u10
a6 [net-_u2-pad45_ net-_u2-pad46_ ] [cosine1 cosine0 ] u8
a7 [gnd gnd gnd net-_u4-pad4_ ] [net-_u2-pad25_ net-_u2-pad26_ net-_u2-pad27_ net-_u2-pad28_ ] u4
a8 [net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ net-_u2-pad7_ net-_u2-pad8_ net-_u1-pad9_ ] [net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ net-_u2-pad17_ net-_u2-pad18_ ] [net-_u2-pad19_ net-_u2-pad20_ net-_u2-pad21_ net-_u2-pad22_ net-_u2-pad23_ net-_u2-pad24_ net-_u2-pad25_ net-_u2-pad26_ net-_u2-pad27_ ] [net-_u2-pad28_ ] [net-_u2-pad29_ net-_u2-pad30_ net-_u2-pad31_ net-_u2-pad32_ net-_u2-pad33_ net-_u2-pad34_ net-_u2-pad35_ net-_u2-pad36_ net-_u10-pad1_ ] [net-_u10-pad2_ net-_u10-pad3_ net-_u10-pad4_ net-_u10-pad5_ net-_u10-pad6_ net-_u10-pad7_ net-_u10-pad8_ net-_u2-pad45_ net-_u2-pad46_ ] u2
* Schematic Name:                             adc_bridge_8, NgSpice Name: adc_bridge
.model u5 adc_bridge(in_low=0.5 in_high=3.3 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_8, NgSpice Name: adc_bridge
.model u1 adc_bridge(in_low=0.5 in_high=3.3 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_8, NgSpice Name: adc_bridge
.model u3 adc_bridge(in_low=0.5 in_high=3.3 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_8, NgSpice Name: dac_bridge
.model u9 dac_bridge(out_low=0.5 out_high=3.3 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_8, NgSpice Name: dac_bridge
.model u10 dac_bridge(out_low=0.5 out_high=3.3 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_2, NgSpice Name: dac_bridge
.model u8 dac_bridge(out_low=0.5 out_high=3.3 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             adc_bridge_4, NgSpice Name: adc_bridge
.model u4 adc_bridge(in_low=0.5 in_high=3.3 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             cordic, NgSpice Name: cordic
.model u2 cordic(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
.tran 0.1e-09 6000e-09 0e-09

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(cosine0)
plot v(cosine1)
plot v(sine6)
plot v(sine5)
plot v(sine4)
plot v(sine3)
plot v(sine2)
plot v(sin1)
plot v(cosine8)
plot v(sin0)
plot v(cosine7)
plot v(cosine6)
plot v(cosine5)
plot v(cosine4)
plot v(cosine3)
plot v(cosine2)
plot v(sine8)
plot v(sine7)
.endc
.end
